US05352784
A solution containing ethyl 2-[(ethoxycarbonyl)-amino]-1-cyclopentene-1-carboxylate (72 g, 0.32 moles) and 25 wt % sodium methoxide in methanol (91.5 mL, 0.40 moles) was refluxed for about 18 hours. Methanol (200 mL) was added during the course of the reaction. The reaction mixture was allowed to cool to ambient temperature then diluted with water and extracted with diethyl ether (5×100 mL). The ether extracts were combined, treated with activated charcoal, dried over sodium sulfate then evaporated to provide 43.8 g of ethyl 2-amino-1-cyclopentene-1-carboxylate as an ivory solid, m.p. 90°-92° C.

reactant | ethyl 2-[(ethoxycarbonyl)-amino]-1-cyclopentene-1-carboxylate | 0.32 moles, 72 g | C(C)OC(=O)NC1=C(CCC1)C(=O)OCC | C11H17NO4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.40 moles, 91.5 mL | CO | CH4O
reactant | Methanol | 200 mL | CO | CH4O
solvent | water | O | H2O
product | ethyl 2-amino-1-cyclopentene-1-carboxylate | 43.8 g | NC1=C(CCC1)C(=O)OCC | C8H13NO2
